US07495022B2
(6-1) 4-Dimethylamino-N-(4-hydroxymethylbenzyl)benzamide
To a mixture of 4-(dimethylamino)benzoic acid (915 mg, 5.54 mmol) and triethylamine (772 μL, 5.54 mmol) in CH2Cl2 (25 mL) at 0° C. was added BOP-Cl (1.50 g, 6.09 mmol), and the mixture was stirred at room temperature for 20 minutes. To the reaction mixture was added (4-aminomethylphenyl)methanol (760 mg, 5.54 mmol) and triethylamine (1.54 mL, 11.08 mmol), and the mixture was stirred at room temperature overnight. To the reaction mixture was added a 50% aqueous NaHCO3 solution (50 mL), and the mixture was extracted with 5% MeOH in CHCl3 (100 mL×1, 40 mL×2). The organic layer was dried (MgSO4) and evaporated under reduced pressure. The crude product was purified by MPLC on silica gel (2% MeOH in CHCl3) to afford the titled compound (1.04 g, 66%) as a white solid.

reactant | 4-(dimethylamino)benzoic acid | 5.54 mmol, 915 mg | CN(C1=CC=C(C(=O)O)C=C1)C | C9H11NO2
reactant | triethylamine | 5.54 mmol, 772 μL | C(C)N(CC)CC | C6H15N
reactant | BOP-Cl | 6.09 mmol, 1.50 g | C1COC(=O)N1P(=O)(N2CCOC2=O)Cl | C6H8ClN2O5P
reactant | (4-aminomethylphenyl)methanol | 5.54 mmol, 760 mg | NCC1=CC=C(C=C1)CO | C8H11NO
reactant | triethylamine | 11.08 mmol, 1.54 mL | C(C)N(CC)CC | C6H15N
reactant | NaHCO3 | 50 mL | C(=O)(O)[O-].[Na+]
solvent | CH2Cl2 | 25 mL | C(Cl)Cl | CH2Cl2
product | 4-Dimethylamino-N-(4-hydroxymethylbenzyl)benzamide | 1.04 g, 66% | CN(C1=CC=C(C(=O)NCC2=CC=C(C=C2)CO)C=C1)C | C17H20N2O2
